US07417028B2
7. (2S)-2-(((9H-Fluoren-9-yl)methoxy)carbonylamino)-3-(6-o-tolylpyridin-3-yl)propanoic acid hydrochloride
A solution of 1.75 g (3.19 mmol) of (2S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-o-tolylpyridin-3-yl)propanoate in TFA (5.0 mL), protected from the atmosphere by a calcium chloride-filled drying tube was stirred at room temperature for two hours. The reaction mixture was concentrated in vacuo at less than 40° C. and the resulting orange oil was dissolved in 10 mL of ether to which a solution of 5 mL of 1 M HCl/ether was added. The resulting white solid was filtered and washed with ether to give the desired compound as a white powder, 1.65 g, 100% yield.

reactant | (2S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-o-tolylpyridin-3-yl)propanoate | 3.19 mmol, 1.75 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)OC(C)(C)C)CC=1C=NC(=CC1)C1=C(C=CC=C1)C | C34H34N2O4
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | TFA | 5.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2S)-2-(((9H-Fluoren-9-yl)methoxy)carbonylamino)-3-(6-o-tolylpyridin-3-yl)propanoic acid hydrochloride | 100% yield | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC=1C=NC(=CC1)C1=C(C=CC=C1)C | InChI=1S/C30H26N2O4.ClH/c1-19-8-2-3-9-21(19)27-15-14-20(17-31-27)16-28(29(33)34)32-30(35)36-18-26-24-12-6-4-10-22(24)23-11-5-7-13-25(23)26;/h2-15,17,26,28H,16,18H2,1H3,(H,32,35)(H,33,34);1H/t28-;/m0./s1
